US05643878
f) 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-(p-benzyloxyphenyl)-2(R)-(phenylmethyl)-hexanoic acid
Analogously to Example 1j), 1.04 g (2.00 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-(phenylmethyl)-hexanoic acid in 7 ml of DMF are silylated with 1.39 g (9.0 mmol) of tert-butyldimethylchlorosilane and 1.12 g (16.4 mmol) of imidazole. Hydrolysis of the silyl ester function with 1.6 g of potassium carbonate in 46 ml of methanol/THF/water 3:1:1 and column chromatography (SiO2, hexane/ethyl acetate 4:1→2:1→1:2) of the crude product yields the title compound: TLC Rf (A)=0.69.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-(phenylmethyl)-hexanoic acid | 2.00 mmol, 1.04 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=CC=C1)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C31H37NO6
reactant | tert-butyldimethylchlorosilane | 9.0 mmol, 1.39 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 16.4 mmol, 1.12 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | methanol THF water | 46 ml | CO.C1CCOC1.O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-(p-benzyloxyphenyl)-2(R)-(phenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C37H51NO6Si
